US05629325
37a. 5-(3,5-bis(trifluoromethyl)phenyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a solution of 3,5-bis(trifluoromethyl)phenylboronic acid (0.55 g, 2.0 mmol, Lancaster Chem Co.) and 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine (300 mg, 1.1 mmol) in toluene (5.0 mL) was added Pd(0) (25 mg) and Na2CO3 (1 mL of a 2M solution), and the mixture was heated at reflux. The solvent was removed under vacuum, and the residue was purified by chromatography on silica gel to afford 225 mg of the title compound. MS (CI/NH3) m/z 405 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.8 (m, 3H), 2.08 (m, 1H), 2.36 (m, 1H), 2.54 (s, 3H), 2.78 (m, 1H), 3.17 (m, 1H), 4.10 (m, 2H), 7.42 (m, 1H), 7.92 (s, 1H), 8.00 (s, 2H), 8.42 (m, 1H), 7.92 (s, 1H), 8.00 (s, 2H), 8.42 (m, 1H), 8.48 (m, 1H).

reactant | 3,5-bis(trifluoromethyl)phenylboronic acid | 2.0 mmol, 0.55 g | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 1.1 mmol, 300 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(3,5-bis(trifluoromethyl)phenyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 225 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1C=C(C=NC1)OC[C@H]1N(CCC1)C)(F)F | C19H18F6N2O
